US07470679B2
tert-Butyl 5-(hydroxymethyl)-4-iodo-2-methylphenylcarbamate
5-Amino-2-iodo-4-methybenzyl alcohol (4.60 g, 17.5 mmoles) was dissolved in tetrahydrofuran (80 mL). Di-tert-butyl dicarbonate (5.30 g, 24.3 mmoles) was added to the mixture. Reaction was heated at 60° C. for 20 hours. Mixture was concentrated. Residue was purified by silica gel chromatography eluting ethyl acetate-hexanes. Title compound was obtained as off-white solid. MS m/e (M−C4H8O+H)+=290.

reactant | 5-Amino-2-iodo-4-methybenzyl alcohol | 17.5 mmoles, 4.60 g | NC=1C(=CC(=C(CO)C1)I)C | C8H10INO
reactant | Di-tert-butyl dicarbonate | 24.3 mmoles, 5.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | tert-Butyl 5-(hydroxymethyl)-4-iodo-2-methylphenylcarbamate | OCC=1C(=CC(=C(C1)NC(OC(C)(C)C)=O)C)I | C13H18INO3
